US04094741
Mixtures of (1) 2.0 ml. of an aqueous substrate suspension prepared by suspending DL-5-phenylhydantoin into a 0.1 M NaHCO3 --Na2CO3 buffer solution of pH 9.5 (substrate concentration: 1.0%) and (2) 2.0 ml. of the above cell suspension were prepared and placed in test tubes, respectively. The hydrolysis reaction was then carried out at 37° C. for 1 hour with mild shaking. Immediately after the completion of the reaction, 1.0 ml. of a 10% aqueous solution of trichloroacetic acid, 1.0 ml. of a 10% solution of p-dimethylaminobenzaldehyde in 6 N hydrochloric acid and 6.0 ml. of distilled water were added to each reaction mixture and admixed. The resulting each color-developed reaction mixture was centrifuged to remove insoluble materials, and the amounts of N-carbamoyl-2-phenylglycine produced in the reaction mixtures were colorimetrically determined by measuring the absorbance at 420 nm. As a Control, the above procedures were repeated except that no hydantoin compound was employed.

reactant | DL-5 phenylhydantoin | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCN)O.C1(=CC=CC=C1)N1C(=O)NC(=O)C1
reactant | NaHCO3 | 0.1 M | C(=O)(O)[O-].[Na+]
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
reactant | trichloroacetic acid | ClC(C(=O)O)(Cl)Cl | C2HCl3O2
reactant | p-dimethylaminobenzaldehyde | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
solvent | hydrochloric acid | 6 N | Cl | ClH
solvent | water | O | H2O
product | N-carbamoyl-2-phenylglycine | C(N)(=O)NC(C(=O)O)C1=CC=CC=C1 | C9H10N2O3
